US08242116B2
4-(6-Chloro-2-methylpyrimidin-4-yl)piperazine-1-carboxylic acid tert-butyl ester
To a solution of 4,6-dichloro-2-methylpyrimidine (300 mg, 1.84 mmol) in THF (4 mL) were added tert-butyl piperazine-1-carboxylate (376 mg, 2.02 mmol) and DIPEA (0.48 mL, 2.76 mmol), and the reaction was heated at 145° C. under microwave irradiation for 30 minutes. The resulting mixture was concentrated in vacuo and the residue was partitioned between DCM (50 mL) and water (50 mL). The organic fraction was washed with brine (50 mL), dried (MgSO4) and concentrated in vacuo to yield the title compound (400 mg, 70%) as an off-white solid. LCMS (ES+) 313.0 (M+H)+, RT 3.63 minutes (Method 1).

reactant | 4,6-dichloro-2-methylpyrimidine | 1.84 mmol, 300 mg | ClC1=NC(=NC(=C1)Cl)C | C5H4Cl2N2
reactant | tert-butyl piperazine-1-carboxylate | 2.02 mmol, 376 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIPEA | 2.76 mmol, 0.48 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-(6-Chloro-2-methylpyrimidin-4-yl)piperazine-1-carboxylic acid tert-butyl ester | 400 mg, 70% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1)Cl)C | C14H21ClN4O2
